US04093812
N,N'-bis-[3-(5-nitro-2-furyl)-1-phenyl-4-pyrazolylcarbonyl]hydrazine
Add a solution of 476 mg of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride in 25 ml of dioxane dropwise to 210 mg of hydrazine dihydrochloride in 2 ml of water, whereupon N,N'-bis-[3-(5-nitro-2-furyl)-1-phenyl-4-pyrazolylcarbonyl]hydrazine [m.p. 313° to 314° C (with decomposition) from dimethylformamide] precipitates with a yield of 72%.

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 476 mg | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
reactant | hydrazine dihydrochloride | 210 mg | Cl.Cl.NN
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | N,N'-bis-[3-(5-nitro-2-furyl)-1-phenyl-4-pyrazolylcarbonyl]hydrazine | yield of 72% | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)NNC(=O)C=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-])C1=CC=CC=C1 | C28H18N8O8
